US08202873B2
1,1,1-Trifluoro-3-{4-[3′-(4-fluoro-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-ylmethyl]-pyrazol-1-yl}-propan-2-ol hydrochloride, Isomers 1 and 2 Respectively
Dissolve 3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (0.143 g, 0.554 mmol) in DCE (5 mL). Add racemic 1-(3,3,3-trifluoro-2-hydroxy-propyl)-1H-pyrazole-4-carbaldehyde (0.236 g, 1.13 mmol) followed by sodium triacetoxyborohydride (0.235 g, 1.11 mmol) and stir at room temperature for 18 hr. Purify via SCX chromatography, followed by silica gel chromatography (eluting with 100:0 to 0:100 hexanes:ethyl acetate then 3:97 methanol:ethyl acetate), to give a racemic mixture of the free bases of the racemic title compounds (166 mg, 67%).

reactant | 3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 0.554 mmol, 0.143 g | FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCNCC1 | C14H15FN4
reactant | racemic 1-(3,3,3-trifluoro-2-hydroxy-propyl)-1H-pyrazole-4-carbaldehyde | 1.13 mmol, 0.236 g | FC(C(CN1N=CC(=C1)C=O)O)(F)F | C7H7F3N2O2
reactant | sodium triacetoxyborohydride | 1.11 mmol, 0.235 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | DCE | 5 mL | ClCCCl | C2H4Cl2
product | 1,1,1-Trifluoro-3-{4-[3′-(4-fluoro-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-ylmethyl]-pyrazol-1-yl}-propan-2-ol hydrochloride | Cl.FC(C(CN1N=CC(=C1)CN1CCN(CC1)C1=NC=CN=C1C1=CC=C(C=C1)F)O)(F)F | InChI=1S/C21H22F4N6O.ClH/c22-17-3-1-16(2-4-17)19-20(27-6-5-26-19)30-9-7-29(8-10-30)12-15-11-28-31(13-15)14-18(32)21(23,24)25;/h1-6,11,13,18,32H,7-10,12,14H2;1H
